US05071863
A solution of 2-amino-4-fluoroanisole (17 g, 120 mmoles) in 120 ml tetrahydrofuran was combined with di-tert-butyl dicarbonate (29 g, 132 mmoles). The mixture was refluxed for 50 hours. Upon cooling the solvent was removed and the residue was dissolved in benzene. The benzene solution was washed with 1M citric acid solution and with brine, dried over sodium sulfate, and evaporated to leave a residual oil. This oil was distilled to give 23.3 g of 2-(N-tert-butoxycarbonylamino)-4-fluoroanisole as a colorless oil: bp 112°-114° C./0.2 mmHg.

reactant | 2-amino-4-fluoroanisole | 120 mmoles, 17 g | NC1=C(C=CC(=C1)F)OC | C7H8FNO
reactant | di-tert-butyl dicarbonate | 132 mmoles, 29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(N-tert-butoxycarbonylamino)-4-fluoroanisole | 23.3 g | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)F)OC | C12H16FNO3
